US09079861B2
To a solution of (R)-3-((S)-1,1-dimethylethylsulfinamido)-3-phenylbutanoic acid (266 mg, 0.94 mmol) in CH2Cl2 (5 mL) was added m-tolylamine (111 mg, 1.03 mmol), DCC (212 mg, 1.03 mmol) and DMAP (11.5 mg, 0.094 mmol) at 0° C. Then the reaction mixture was stirred at room temperature overnight. The residue was purified by preparative TLC to give (R)-3-((S)-1,1-dimethylethylsulfinamido)-3-phenyl-N-m-tolylbutanamide (25 mg, 7%). 1H NMR (CDCl3): 1.10-1.20 (m, 12H), 1.51-1.65 (m, 11H), 3.10-3.30 (m, 2H), 4.25 (s, 1H), 6.80-6.90 (m, 1H), 7.06-7.15 (m, 1H), 7.28-7.48 (m, 5H), 7.50-7.60 (m, 2H), 8.95 (s, 1H).

reactant | (R)-3-((S)-1,1-dimethylethylsulfinamido)-3-phenylbutanoic acid | 0.94 mmol, 266 mg | CC(C)([S@](=O)N[C@@](CC(=O)O)(C)C1=CC=CC=C1)C | C14H21NO3S
reactant | m-tolylamine | 1.03 mmol, 111 mg | C1(=CC(=CC=C1)N)C | C7H9N
reactant | DCC | 1.03 mmol, 212 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.094 mmol, 11.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-3-((S)-1,1-dimethylethylsulfinamido)-3-phenyl-N-m-tolylbutanamide | 25 mg, 7% | CC(C)([S@](=O)N[C@@](CC(=O)NC=1C=C(C=CC1)C)(C)C1=CC=CC=C1)C | C21H28N2O2S
